US08975252B2
4N HCl/dioxane (1 ml) was added under ice cooling to (2R)-2-{[[4-benzyloxy-3-(3-methoxypropoxy)benzyl](cyclopropyl)amino]carbonyl}morpholine-4-carboxylic acid tert-butyl ester (a compound of Reference Example 9, 217 mg) dissolved in chloroform (1 ml), and the mixture is stirred at room temperature for 2 hours. The mixture was concentrated in vacuo. the residue was added water (1 ml) and diethyl ether (2 ml), and then the mixture was slightly stirred. The layer of diethyl ether was removed by decantation and the resulted residue is lyophilized to give (2R)—N-[4-(benzyloxy)-3-(3-methoxypropoxy)benzyl]-N-cyclopropylmorpholin-2-carboxamide hydrochloride (166 mg) as a colorless powder. APCI-MS m/z: 455[M+H]+.

reactant | HCl dioxane | 4N, 1 ml | Cl.O1CCOCC1
reactant | (2R)-2-{[[4-benzyloxy-3-(3-methoxypropoxy)benzyl](cyclopropyl)amino]carbonyl}morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C(=O)N(C1CC1)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCCCOC | C31H42N2O7
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R)—N-[4-(benzyloxy)-3-(3-methoxypropoxy)benzyl]-N-cyclopropylmorpholin-2-carboxamide hydrochloride | 166 mg | Cl.C(C1=CC=CC=C1)OC1=C(C=C(CN(C(=O)[C@H]2CNCCO2)C2CC2)C=C1)OCCCOC | InChI=1S/C26H34N2O5.ClH/c1-30-13-5-14-31-24-16-21(8-11-23(24)33-19-20-6-3-2-4-7-20)18-28(22-9-10-22)26(29)25-17-27-12-15-32-25;/h2-4,6-8,11,16,22,25,27H,5,9-10,12-15,17-19H2,1H3;1H/t25-;/m1./s1
